US06355799B1
Preparation of 3-[4-chloro-2-diazanyl-6-fluoro-3-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 15-1)
3-(2-Amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (0.9 g, 2.4 mmol) was dissolved in conc. hydrochloric acid (5 ml) and the mixture cooled to −15° C., a solution of NaNO2 (0.2 g in 2 ml of H2O) was added slowly. After stirred for 20 min, a solution of SnCl2.2H2O (1.5 g in 4 ml of conc. hydrochloric acid) was added and the reaction continued at −15° C. for 30 min, then at room temperature for 30 min. The aqueous mixture was extracted with ethyl acetate (5 ml×3) and the organic phase washed with brine and dried over Na2SO4. Column chromatography was used to purify the product (silica gel, hexane/ethyl acetate=6/4). Yield: 0.5 g, 1.3 mmol.

reactant | 3-(2-Amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 2.4 mmol, 0.9 g | NC1=C(C(=CC(=C1OC)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF4N3O3
reactant | NaNO2 | 2 ml, 0.2 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 4 ml, 1.5 g | O.O.Cl[Sn]Cl
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 3-[4-chloro-2-diazanyl-6-fluoro-3-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NN)OC | C13H11ClF4N4O3
